US05446045
5-Amino-3-(4-carboxybutyl)thiazolo[4,5-d]-pyrimidine-2,7(3H,6H)-dione
A mixture of 5-amino-3-[4-(ethoxycarbonyl)butyl]thiazolo[4,5-d]pyrimidine-2,7(3H,6H)-dione (312 mg, 1 mmol) and 1 N NaOH (5 mL) was stirred at ambient temperaturefor 1.5 h. The mixture was acidified (pH=4) with AcOH and then refrigeratedfor 16 h. The solid was collected by filtration, crystallized from a MeOH:H2O mixture and dried under vacuum at 80° C. for 16 h; 220 mg (0.774 mmol, 77%), mp 263°-265° C. Ir (KBr): v 3410, 3315 and 3180 (NH, NH2), 1725 (C=O) and 1640 (C=O), and 1640 (C=O, C=N) cm-3. Uv, λ max (nm), (ε×10-3): pH 1, 302 (9.79), 250 (8.52), 222 (31.0); MeOH, 302 (9.48), 250 (8.79), 222 (30.40); pH 11, 292 (8.26), 250 (8.15), 224 (12.20). 1H nmr (DMSO-d6): δ 1.43-1.50 (m, 2 H, CH2), 1.60-1.67 (m, 2 H, CH2), 2.24 (t, 2 H, CH2), 3.76 (t,2 H, NCH2), 6.91 (br s, 2 H, NH2) 11.1 (br s, 1 H, NH), and 12.0 (br s, 1 H, COOH) Anal. Calc'd for C10H12N4O4S (284.30): C, 42.25; H, 4.25; N, 19.71. Found: C, 42.32; H, 4.22; N, 19.69.

reactant | 5-amino-3-[4-(ethoxycarbonyl)butyl]thiazolo[4,5-d]pyrimidine-2,7(3H,6H)-dione | 1 mmol, 312 mg | NC=1NC(C2=C(N1)N(C(S2)=O)CCCCC(=O)OCC)=O | C12H16N4O4S
reactant | NaOH | 1 N, 5 mL | [OH-].[Na+]
solvent | AcOH | CC(=O)O | C2H4O2
product | 5-Amino-3-(4-carboxybutyl)thiazolo[4,5-d]-pyrimidine-2,7(3H,6H)-dione | NC=1NC(C2=C(N1)N(C(S2)=O)CCCCC(=O)O)=O | C10H12N4O4S
